US07820672B2
e) 5-Chloro-4-ethoxycarbonylmethyl-2-methyl-indole-1-carboxylic acid methyl ester
4-Bromo-5-chloro-2-methyl-indole-1-carboxylic acid methyl ester (1.99 g, 6.57 mmol) and tributylstannanyl-acetic acid ethyl ester (3.22 g, 8.55 mmol) are dissolved in dry DMF (55 ml) under an atmosphere of argon. Zinc(II) bromide (1.92 g, 8.55 mmol) and dichlorobis(tri-o-tolylphosphin)palladium (0) (1.03 g, 1.31 mmol) are added. The reaction mixture is heated to 80° C. for 18 hours. TLC analysis indicates complete consumption of the starting material. The reaction mixture is cooled to RT and poured on a saturated aqueous solution of NH4Cl. After addition of EtOAc (30 ml), the mixture is filtered through a pad of Celite. The organic layer is washed with saturated aq. NaCl solution, dried over Na2SO4 and concentrated. The residue is purified by FCC (hexane/EtOAc 4:1) to yield the desired compound, still contaminated with tin residues. The mixture is dissolved in a 1:1 mixture of 1 M NaOH/EtOAc (200 ml in total) and stirred at RT for 18 hours. The organic layer is separated, washed once with concentrated aqueous NaCl solution, and then dried over Na2SO4. Concentration yields a solid residue which is purified by FCC (hexane/EtOac 4:1) to afford the desired compound, still slightly contaminated. A further round of purification with an automated preparative HPLC system (Gilson HPLC, Xterra 5 mikron, gradient 10% to 100% MeCN in H2O, 30 min) affords the pure title compound. 1H NMR (DMSO, 400 MHz) δ 1.20 (t, J=6.6 Hz, 3H), 2.59 (s, 3H), 4.01 (s, 2H), 4.03 (s, 3H), 4.11 (q, J=6.6 Hz, 2H), 6.68 (s, 1H), 7.32 (d, J=9 Hz, 1H), 7.96 (d, J=9 Hz, 1H); ES-MS: 332.1 [M+Na]+.

reactant | 4-Bromo-5-chloro-2-methyl-indole-1-carboxylic acid methyl ester | 6.57 mmol, 1.99 g | COC(=O)N1C(=CC2=C(C(=CC=C12)Cl)Br)C | C11H9BrClNO2
reactant | tributylstannanyl-acetic acid ethyl ester | 8.55 mmol, 3.22 g | C(C)OC(C[Sn](CCCC)(CCCC)CCCC)=O
solvent | DMF | 55 ml | CN(C)C=O | C3H7NO
catalyst | Zinc(II) bromide | 8.55 mmol, 1.92 g | [Br-].[Zn+2].[Br-]
catalyst | dichlorobis(tri-o-tolylphosphin)palladium | 1.31 mmol, 1.03 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | 5-Chloro-4-ethoxycarbonylmethyl-2-methyl-indole-1-carboxylic acid methyl ester | COC(=O)N1C(=CC2=C(C(=CC=C12)Cl)CC(=O)OCC)C | C15H16ClNO4
